US07786165B2
ethyl 3-(2-fluoro-4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate
To a solution of ethyl 3-(4-amino-2-fluorophenyl)propanoate (9.89 g, 46.8 mmol) in pyridine (70 mL) was added 2-nitrobenzenesulfonyl chloride (11.4 g, 51.5 mmol) by small portions, and the mixture was stirred at room temperature for 70 hr. The solvent was evaporated under reduced pressure, and water and ethyl acetate were added to the obtained residue. The mixture was stirred with heating at 80° C. for 15 min and filtrated through celite. The organic layer in the filtrate was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20%-50% ethyl acetate/hexane) to give the title compound (14.2 g, yield 76%) as pale-yellow prism crystals.

reactant | ethyl 3-(4-amino-2-fluorophenyl)propanoate | 46.8 mmol, 9.89 g | NC1=CC(=C(C=C1)CCC(=O)OCC)F | C11H14FNO2
reactant | 2-nitrobenzenesulfonyl chloride | 51.5 mmol, 11.4 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | pyridine | 70 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 3-(2-fluoro-4-{[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 14.2 g, yield 76% | FC1=C(C=CC(=C1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCC(=O)OCC | C17H17FN2O6S
